US06231714B1
Methacrylic anhydride (6.92 g; 0.045 moles) was added dropwise to a chilled solution of purified 4-allyloxyphenol (7.0 g; 0.047 moles), triethylamine (3.55 g; 0.035 moles), 4-dimethylaminopyridine (0.43 g; 0.004 moles), 2-6-di-tert-butyl-4-methylphenol (0.018 g; 0.08 m moles) and toluene (20 ml) in a stirred 100 ml reaction flask fitted with a reflux condenser, magnetic stirrer and thermocouple probe. During the addition the reaction temperature increased to 37° C. The mixture was heated at 110° C. for 1.5 hour, cooled and washed sequentially with equal volumes of saturated sodium bicarbonate, dilute hydrochloric acid and water. The solution was dried over magnesium sulfate and the solvent removed under reduced pressure to yield 4-allyloxyphenyl methacrylate (8.3 g; 90% yield) as a clear yellow liquid. The structure of the monomer was confirmed by proton and infrared spectral analysis and GC analysis indicated a purity of 90%.

reactant | Methacrylic anhydride | 0.045 moles, 6.92 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
reactant | 4-allyloxyphenol | 0.047 moles, 7.0 g | C(C=C)OC1=CC=C(C=C1)O | C9H10O2
reactant | triethylamine | 0.035 moles, 3.55 g | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 0.004 moles, 0.43 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 4-allyloxyphenyl methacrylate | 8.3 g, 90% yield | C(C(=C)C)(=O)OC1=CC=C(C=C1)OCC=C | C13H14O3
